US07470790B2
Synthesis of [6-(1-benzyl-4-oxo-pyrrolidin-3-ylmethyl)-pyridin-2-yl]-carbamic acid tert-butyl ester (I-4)
To a solution of DMSO (0.02 mol) in 30 mL of anhydrous CH2Cl2 was added dropwise oxalyl chloride (0.015 mol). The mixture was stirred at −78° C. for 10 min. After this time a solution of [6-(1-benzyl-4-hydroxy-pyrrolidin-3-ylmethyl)-pyridin-2-yl]-carbamic acid tert-butyl ester I-3 (0.01 mol) in 10 mL of anhydrous CH2Cl2 was added dropwise at a rate to keep the reaction temperature below −60° C. Upon complete addition, the mixture was allowed to stir at −78° C. for 2 h. Then anhydrous triethylamine (0.03 mol) was added dropwise to the mixture. After complete addition, the reaction mixture was allowed to warm to room temperature. The resulting solution was partitioned between 1 M NaOH (40 ml) and the product was extracted with CH2Cl2 (30 ml×2). All organic layers were combined, washed with brine, dried over anhydrous Na2SO4, and concentrated in vacuo to yield crude product, which was purified using column chromatography (silica gel, CH2Cl2:EtOAc, 4:1) (87%).

reactant | DMSO | 0.02 mol | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 0.015 mol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | [6-(1-benzyl-4-hydroxy-pyrrolidin-3-ylmethyl)-pyridin-2-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=NC(=CC=C1)CC1CN(CC1O)CC1=CC=CC=C1)=O | C22H29N3O3
reactant | triethylamine | 0.03 mol | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | [6-(1-benzyl-4-oxo-pyrrolidin-3-ylmethyl)-pyridin-2-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=NC(=CC=C1)CC1CN(CC1=O)CC1=CC=CC=C1)=O | C22H27N3O3
